US08476434B2
To 3-(trifluoromethyl)benzoic acid (380 mg, 2.00 mmol), 4-amino-2-methylphenol (271 mg, 2.20 mmol) and EDC (767 mg, 4.00 mmol) was added CH2Cl2 (80 mL). The resulting mixture was stirred for 66 hours at RT, concentrated, dissolved in EtOAc and washed with water. The organics were dried over sodium sulfate, filtered and concentrated. The crude material was purified by silica gel chromatography (0-50% EtOAc/hexanes) to yield N-(4-hydroxy-3-methylphenyl)-3-(trifluoromethyl)benzamide as a white solid. MS m/z=296 [M+1]+. Calc'd for C15H12F3NO2: 295.26.

reactant | 3-(trifluoromethyl)benzoic acid | 2.00 mmol, 380 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | 4-amino-2-methylphenol | 2.20 mmol, 271 mg | NC1=CC(=C(C=C1)O)C | C7H9NO
reactant | EDC | 4.00 mmol, 767 mg
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | N-(4-hydroxy-3-methylphenyl)-3-(trifluoromethyl)benzamide | OC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C | C15H12F3NO2
